US07291631B2
Using General Procedure B, reaction of 4-formylpiperidine-1-carboxylic acid tert-butyl ester (Bioorg. Med. Chem Lett. 2002, 12, 1785-1790), C-(3-methylpyridin-2-yl)-methylamine and NaBH(OAc)3 in CH2Cl2 gave 4-{[(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | 4-formylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | C-(3-methylpyridin-2-yl)-methylamine | CC=1C(=NC=CC1)CN | C7H10N2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-{[(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNCC1=NC=CC=C1C | C18H29N3O2
